US06852731B2
N-(4-chlorobenzyl)-2-(chloromethyl)-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide
Methanesulfonyl chloride (0.23 mL, 3.0 mmol) was added to a mixture of N-(4-chlorobenzyl)-2-(hydroxymethyl)-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide (446 mg, 1.19 mmol), collidine (0.39 mL, 3.0 mmol) and DMAP (22 mg, 0.18 mmol) in DMF (21 mL). The reaction was stirred at room temperature for 1 hour 15 minutes, going to an orange/amber solution. The reaction was cooled in an ice bath before diluting with water to a total volume of 100 mL. The mixture was stirred vigorously for 5 minutes before the solid precipitate was collected by filtration, washed with water and dried in vacuo, leaving the title compound as a white solid (460 mg).

reactant | Methanesulfonyl chloride | 3.0 mmol, 0.23 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-(4-chlorobenzyl)-2-(hydroxymethyl)-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 1.19 mmol, 446 mg | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)C(=C(S3)CO)C)=O)C=C1 | C18H17ClN2O3S
reactant | collidine | 3.0 mmol, 0.39 mL | N1=C(C=C(C=C1C)C)C | C8H11N
catalyst | DMAP | 0.18 mmol, 22 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 21 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-(4-chlorobenzyl)-2-(chloromethyl)-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 460 mg | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)C(=C(S3)CCl)C)=O)C=C1 | C18H16Cl2N2O2S
